US07737141B2
Synthesis of [(4R,9aS)-6-oxo-4-(3,4,5-trifluorophenyl)octahydropyrido[2,1-c][1,4]oxazin-7-yl]phosphonic acid diethyl ester
In nitrogen atmosphere, trimethylsilyle iodide (0.188 mL) was added to a methylene chloride solution (6 mL) of (4R,9aS)-4-(3,4,5-trifluorophenyl)hexahydropyrido[2,1-c][1,4]oxazin-6-one (252 mg) and N,N,N′,N′-tetramethylethylenediamine (0.466 mL) at 0° C. The resulting reaction solution was stirred under ice-cooling for 30 min, and iodine (336 mg) was added thereto under ice-cooling. The resulting reaction solution was stirred under ice-cooling for 1 hr, and ethyl acetate and a saturated sodium thiosulfate aqueous solution were added thereto. The organic layer was separated, washed with saturated saline, dried over magnesium sulfate, and concentrated under reduced pressure to give a crude iodinated substance. To the given crude iodinated substance, triethyl phosphite (3 mL) was added. The resulting mixture was stirred at 120° C. for 2 hr, allowed to cool to room temperature, and then concentrated under reduced pressure to give 372 mg of the title compound. The physical property values of this compound were as follows:

reactant | iodide | 0.188 mL | [I-]
reactant | (4R,9aS)-4-(3,4,5-trifluorophenyl)hexahydropyrido[2,1-c][1,4]oxazin-6-one | 252 mg | FC=1C=C(C=C(C1F)F)[C@H]1N2[C@H](COC1)CCCC2=O | C14H14F3NO2
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.466 mL | CN(CCN(C)C)C | C6H16N2
reactant | iodine | 336 mg | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | triethyl phosphite | 3 mL | P(OCC)(OCC)OCC | C6H15O3P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | [(4R,9aS)-6-oxo-4-(3,4,5-trifluorophenyl)octahydropyrido[2,1-c][1,4]oxazin-7-yl]phosphonic acid diethyl ester | 372 mg | C(C)OP(OCC)(=O)C1CC[C@H]2COC[C@H](N2C1=O)C1=CC(=C(C(=C1)F)F)F | C18H23F3NO5P
